US07456164B2
Pyridinium chlorochromate (20.3 g, 0.09415 mol), 1.69 wt) was charged to a stirred suspension of celite (24 g, 2 wt) and {4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-yl}methanol (12.03 g, 0.03766 mol) in dichloromethane (120 ml, 10 vol) with stirring. The mixture was stirred at 18-25° C. for 3.5 hours after which time LC analysis showed the reaction to be 70% complete. Magnesium sulphate (12 g, 1 wt) was added and the resulting slurry filtered through a pad of aluminium oxide (activated, basic, Brockmann I, standard grade, ˜150 mesh) (481 g, 40 wt) eluting with 1% methanol/dichloromethane. Clean fractions were combined and evaporated to dryness at 40° C. The resulting brown solid was stirred in tertbutylmethylether (120 ml, 10 vol). Undissolved residue was removed by filtration and rinsed with tertbutylmethylether (3×120 ml, 3×10 vol). The combined filtrates were evaporated at 40° C. to yield 4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carbaldehyde (6.0 g, 50.2%) as a beige waxy solid.

reactant | Pyridinium chlorochromate | 0.09415 mol, 20.3 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | {4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-yl}methanol | 0.03766 mol, 12.03 g | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)CO | C19H29NO3
reactant | Magnesium sulphate | 12 g | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
product | 4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carbaldehyde | 6.0 g, 50.2% | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C=O | C19H27NO3
